### PR TITLE
feat(Topology/SpectralSpace/Constructible): fill three sorries about constructible topology

### PR DESCRIPTION
**Pull request by chrisflav**
Fills three sorries in `Proetale/Topology/SpectralSpace/Constructible.lean` upstreamed from the `archon` branch.

## Summary

- `exists_specializes_of_isClosed_constructibleTopology_of_mem_closure` (Stacks 0903 (1)): a point in the closure of a constructibly-closed set `s` is a specialization of some point in `s`. The proof uses the compactness of `WithConstructibleTopology X` (applied to the family of closed sets `(U ∩ s)` indexed by compact opens `U ∋ x`) together with the fact that compact opens form a basis of the topology of a spectral space.
- `SpectralSpace.t2Space_of_isClosed_singleton` and `SpectralSpace.totallyDisconnectedSpace_of_isClosed_singleton` (Stacks 0905 (6) → (1)): both follow from the new private helper `SpectralSpace.totallySeparatedSpace_of_isClosed_singleton`. That helper observes that if all singletons are closed, every subset is stable under specialization, so by `IsClosed.of_isClosed_constructibleTopology` every compact open is clopen — and compact opens form a basis, so any two distinct points are separated by a clopen.

Adds an import of `Mathlib.Topology.Connected.Separation` for `totallySeparatedSpace_iff_exists_isClopen` and the `TotallySeparatedSpace → T2Space` / `→ TotallyDisconnectedSpace` instances.

## Test plan

- [x] `lake build Proetale.Topology.SpectralSpace.Constructible` succeeds with no warnings.
- [x] Full `lake build` succeeds (no downstream regressions).

### CODE REVIEW

File: Proetale/Topology/SpectralSpace/Constructible.lean [hunk 1]
```diff
@@ -39,15 +69,42 @@ lemma IsClosed.of_isClosed_constructibleTopology [SpectralSpace X] {s : Set X}
     exists_specializes_of_isClosed_constructibleTopology_of_mem_closure hs hx
   exact h hx hy
 
+private lemma SpectralSpace.totallySeparatedSpace_of_isClosed_singleton [SpectralSpace X]
+    (h : ∀ x : X, IsClosed ({x} : Set X)) : TotallySeparatedSpace X := by
```
Comment (chrisflav) [inline Proetale/Topology/SpectralSpace/Constructible.lean]: Remove the `private` and replace `h` by `[T1Space X]`. This can then be an instance.

File: Proetale/Topology/SpectralSpace/Constructible.lean [hunk 2]
```diff
@@ -39,15 +69,42 @@ lemma IsClosed.of_isClosed_constructibleTopology [SpectralSpace X] {s : Set X}
...
+  -- When all singletons are closed, the specialization order is discrete, so every subset is
+  -- stable under specialization.
+  have stable (s : Set X) : StableUnderSpecialization s := fun x y hxy hx => by
```
Comment (chrisflav) [inline Proetale/Topology/SpectralSpace/Constructible.lean]: This should be a separate lemma about `T1Space`s.

File: Proetale/Topology/SpectralSpace/Constructible.lean [hunk 3]
```diff
@@ -39,15 +69,42 @@ lemma IsClosed.of_isClosed_constructibleTopology [SpectralSpace X] {s : Set X}
...
+    rwa [← hxy_eq]
+  -- Hence every compact open `U` is clopen: it is constructibly closed (by
+  -- `IsCompact.isOpen_constructibleTopology_of_isClosed` applied to `Uᶜ`) and
+  -- specialization-stable.
+  have clopen (U : Set X) (hUo : IsOpen U) (hUc : IsCompact U) : IsClopen U := by
+    refine ⟨?_, hUo⟩
+    refine IsClosed.of_isClosed_constructibleTopology ?_ (stable U)
+    have hUcc : IsCompact Uᶜᶜ := by rwa [compl_compl]
+    exact @IsClosed.mk X (constructibleTopology X) U
+      (hUcc.isOpen_constructibleTopology_of_isClosed hUo.isClosed_compl)
```
Comment (chrisflav) [inline Proetale/Topology/SpectralSpace/Constructible.lean]: There should be a general lemma about the constructible topology that can be added and used here.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Topology/SpectralSpace/Constructible.lean [hunk 4]
```diff
@@ -25,8 +27,33 @@ it is the specialization of a point in `s`. -/
...
 lemma exists_specializes_of_isClosed_constructibleTopology_of_mem_closure [SpectralSpace X]
     {s : Set X} (hs : IsClosed[constructibleTopology X] s) {x : X} (hx : x ∈ closure s) :
-    ∃ y ∈ s, y ⤳ x :=
-  sorry
+    ∃ y ∈ s, y ⤳ x := by
+  -- The family of intersections `U ∩ s` indexed by compact opens `U` containing `x` consists of
+  -- closed sets in the constructible topology and has the finite intersection property in `X`
+  -- (since `x ∈ closure s` and any finite intersection of compact opens containing `x` is open).
+  let ι := { U : Set X // IsOpen U ∧ IsCompact U ∧ x ∈ U }
+  have hF_closed (i : ι) : @IsClosed (WithConstructibleTopology X) _ ((i : Set X) ∩ s) :=
```
Comment (chrisflav) [inline Proetale/Topology/SpectralSpace/Constructible.lean]: Use the `IsClosed[constructibleTopology]` notation instead.

**Comment by chrisflav** [comment]
orchestra address review: Address the above comment and fix the CI failures related to the blueprint.
